US03996242
0.01 mole of sulphamide in 5 ml of concentrated hydrochloric acid are added to 0.012 mole of chloroacetaldehyde, at room temperature whilst stirring. After 5 minutes, the precipitate which has formed is filtered off and washed with ice water, dried and recrystallised from acetone/petroleum ether. 3,7-Di-(chloromethyl)-1,5-dithia-2,4,6,8-tetra-aza-cyclooctane-1,1,5,5-tetraoxide is obtained as colourless crystals of melting point 175° C (decomposition) in a yield of 70% of the theoretical yield.

reactant | sulphamide | 0.01 mole | S(=O)(=O)(N)N | H4N2O2S
reactant | chloroacetaldehyde | 0.012 mole | ClCC=O | C2H3ClO
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 3,7-Di-(chloromethyl)-1,5-dithia-2,4,6,8-tetra-aza-cyclooctane-1,1,5,5-tetraoxide | yield of 70% | ClCC1NS(NC(NS(N1)(=O)=O)CCl)(=O)=O | C4H10Cl2N4O4S2
